Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hepatitis C cirrhosis/ HCC here for liver transplant
 
Major Surgical or Invasive Procedure:
___: Liver transplant

 
History of Present Illness:
___ with history of alcoholic/hepatitis C cirrhosis with
subsequent ___ s/p RFA ablation this month who was recently
listed now presenting for liver transplant. The patient has had 
a
prior history of alcohol abuse, ___ drinks of vodka per day, and
states she has been sober since ___. She in addition has a
history of hepatitis C which is thought to be related to a blood
transfusion from several years ago secondary to trauma
splenectomy or C-section. 

In the interim, she has undergone routine screening and work-up
for transplant, with noted lesion in segment VII for which
recently underwent RFA two weeks ago. She since then has been
recovering well, and recently returned from a vacation in 
___.

She otherwise denied fevers, chills or unintentional weight 
loss.
Denies acholic stools, jaundice or pruritis. Denied melena or
hematochezia; has had a history of bleeding per rectum secondary
to known hemorrhoids, but was self-limited. Her last colonoscopy
was ___ years ago at ___.

 
Past Medical History:
peptic ulcer disease, hepatitis C cirrhosis, alcoholic
cirrhosis (sober since ___, infertility, L tenth rib fx,
deviated septum

PSH: splenectomy ___ trauma (horseback riding injury), 2 C/S,
laparoscopy for infertility, s/p multiple fertility treatments,
deviated septum repair, s/p R knee surgery, s/p spiral fx L
tib/fix

 
Social History:
___
Family History:
significant for diabetes, HTN, CHF. Brother recently diagnosed 
with renal cancer

 
Physical Exam:
VS:98.3 69 155/85 18 97%RA
General: in no acute distress, resting comfortably in hospital
bed
HEENT: sclera anicteric, mucus membranes moist, nares clear,
trachea at midline
CV: sinus bradycardia. Holosystolic murmur with loud S2.
Pulm: clear to auscultation bilaterally in all lung fields with
good excursion
Abd: + bowel sounds, well-healed midline laparotomy incision,
left lateral 2cm scar ___ former drain site. Well-healed low
midline incision c/w prior c-sections. Soft, nontender,
nondistended.
MSK: warm, well perfused. 1+ pitting edema to knees bilaterally.
Palpable distal pulses.
Neuro: alert, oriented to person, place, time

 
Pertinent Results:
On Admission: ___ 
WBC-8.4 RBC-4.07* Hgb-13.5 Hct-40.8 MCV-100* MCH-33.2* MCHC-33.1 
RDW-12.4 Plt ___ PTT-30.8 ___
Glucose-74 UreaN-12 Creat-0.5 Na-135 K-3.6 Cl-92* HCO3-29 
AnGap-18
ALT-30 AST-74* AlkPhos-177* TotBili-0.8
Albumin-3.0* Calcium-9.1 Phos-4.5 Mg-1.5*
 
Brief Hospital Course:
___ y/o female with hepatitis C cirrhosis and HCC recently listed 
for liver transplant who received an offer for liver transplant. 
The patient was taken to the OR with Dr ___ who 
performed the hepatectomy, and Dr ___ who completed 
the transplant.
There were no complications reported during the surgery, and she 
received four liters crystalloid, 1 unit of FFP, 500 mg of 
albumin. She was transferred to the surgical ICU still intubated 
but stable.
The patient received routine induction immunosuppression to 
include 500 mg solumedrol intra-op, cellcept prior to the 
surgery. Tacrolimus was started on the evening of POD 1.

On Post day 0 a liver ultrasound was obtained showing patent 
hepatic arteries immediately post-transplant, but arterial 
waveforms are moderately abnormal with reduced resistive 
indices, though preserved rate of systolic upstroke.
Liver function tests intially increased significatly, however 
they have trended down daily except the alk phos which was 
trending down, then on POD 3 it has started to increase again. 
It was stably elevated to 210 on POD 4 and 5, Total bilirubin 
was 0.8 on POD 5.

Follow up ultrasounds were performed on POD 1, POD 2 and POD 4. 
The ultrasound on POD 4 reports "Patent hepatic vasculature with 
improved arterial waveforms". 

Patient received routine induction immunosuppression following 
solumedrol taper and transition to oral prednisone, she remains 
on 1 gram BID of cellcept, and tacrolimus levels have been drawn 
daily with adjustments to dosing per level.

The patient has been advanced to a regular diet with good 
tolerance, is ambulating easily and is cleared for home. She has 
received the transplant teaching manual and medications have 
been reviewed with nursing, pharmacist and coordinators. Of note 
the patient has been struggling with constipation and was sent 
home with an aggressive bowel regimen.

On POD 5 she was noted to have increased LFTs across the board, 
and another liver ultrasound was obtained. Per the ultrasound 
report; Patent hepatic vasculature.  There is a region of 
turbulent high velocity arterial flow in the anterior right lobe 
of the liver contaminated with venous flow.  This appearance is 
consistent with an AV fistula.  
The following day the LFTs were still elevated but stable from 
the previous day.

The patient was otherwise doing very well and it was determined 
she could be discharged to home with lab followup 2 days 
following discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
2. Citalopram 20 mg PO DAILY 
3. Nadolol 10 mg PO DAILY 
4. Spironolactone 25 mg PO BID 
5. Furosemide 20 mg PO BID 
6. Lorazepam 0.5 mg PO TID 
7. Zolpidem Tartrate 10 mg PO HS 
8. Gabapentin 100 mg PO TID 
9. Lactulose 30 mL PO DAILY 
may increases up to TID 
10. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. Lorazepam 0.5 mg PO TID 
3. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3
4. Docusate Sodium 100 mg PO BID 
5. Famotidine 20 mg PO BID 
6. Fluconazole 400 mg PO Q24H 
7. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*40 Tablet Refills:*0
8. Mycophenolate Mofetil 1000 mg PO BID 
9. PredniSONE 20 mg PO DAILY 
Follow transplant clinic taper 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. ValGANCIclovir 450 mg PO Q24H 
12. FreeStyle Lite Meter *NF* (blood-glucose meter) 1  
Miscellaneous bid 
RX *blood-glucose meter [FreeStyle Lite Meter]   1  Disp #*1 Kit 
Refills:*0
13. FreeStyle Lite Strips *NF* (blood sugar diagnostic) 1  tp 
bid 
check blood sugar prior to breakfast and supper 
RX *blood sugar diagnostic [FreeStyle Lite Strips]   1 twice a 
day Disp #*60 Bottle Refills:*3
14. FreeStyle Lancets *NF* (lancets) 1  Miscellaneous bid 
check prior to breakfast and supper 
RX *lancets [FreeStyle Lancets]   1 twice a day Disp #*60 Bottle 
Refills:*3
15. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
Take 2 hours separately from mycophenylate (Cellcept) 
16. Senna 1 TAB PO BID 
17. Tacrolimus 2 mg PO Q12H 
Take 12 hours apart 
18. Vitamin D 400 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Hepatitis C cirrhosis, ___ now s/p liver transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
AllCare ___ arranged

Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, yellowing of skin or 
eyes, increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, decreased urine output or dark, 
cloudy urine, swelling of abdomen or ankles, or any other 
concerning symptoms.
For this week only, have labs drawn ___ then resume 
___ schedule per transplant clinic.
You will have labwork drawn every ___ and ___ at ___ 
___ in ___ or on clinic days, the ___ Lab 
(First Floor. Results to the transplant clinic (___). 
CBC, Chem 10, AST, ALT, Alk Phos, T Bili, Trough prograf level. 
On the days you have your labs drawn, do not take your prograf 
until your labs are drawn. Bring your prograf with you so you 
may take your medication as soon as your labwork has been drawn.
Please follow your medication card, keep it updated with any 
dosage changes, and always bring your card with you to any 
clinic or hospital visits.
You may shower. Allow the water to run over your incision and 
pat area dry. No rubbing, no lotions or powder near the 
incision. You may leave the incision open to the air. The 
staples are removed approximately 3 weeks following your 
transplant.
Please drain and record the JP drain output twice daily and as 
needed. don't allow the drain to be more than ___ full. Do not 
allow the drain to hang freely at any time. Place a new drain 
sponge around the drain site daily and after your shower. 
Monitor the site for redness, drainage or bleeding.
No tub baths or swimming
No driving if taking narcotic pain medications
Please avoid direct sun exposure. Wear protective clothing and a 
hat, and always wear sunscreen when you go outdoors.
Please drink enough fluids to keep your urine light in color. 
Your appetite will return with time. Eat small frequent meals, 
and you may supplement with things like carnation instant 
breakfast or Ensure.
Please check your blood sugars and blood pressure at home. 
Report consistently elevated values to the transplant clinic
Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant

___ take 30 cc milk of magnesia if constipation persists

Check fingerstick blood sugars in the morning before breakfast 
and late afternoon. Call the transplant clinic if the readings 
are persistently above 200. Bring record of blood sugars with 
you to transplant clinic appointments
 
Followup Instructions:
___